US06638928B1
Addition of H2O to 4-((1Z)-1-ethylprop-1-enyl)-1-benzyloxy-2-methoxybenzene to yield 3-(3-methoxy-4-benzyloxyphenyl)pentan-2-ol.

reactant | 4-((1Z)-1-ethylprop-1-enyl)-1-benzyloxy-2-methoxybenzene | C(C)/C(=C/C)/C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C19H22O2
reactant | H2O | O | H2O
product | 3-(3-methoxy-4-benzyloxyphenyl)pentan-2-ol | COC=1C=C(C=CC1OCC1=CC=CC=C1)C(C(C)O)CC | C19H24O3
